US07108895B2
To a tetrahydrofuran 50 ml solution of 10 g (0.031 mol) of 1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-3,5-difluorobenzene, a n-butyllithium/hexane solution (1.6M, 0.041 mol) was dropwise added over a period of 1 hour at −60° C., followed by stirring for 2 hours at the same temperature. Then, a tetrahydrofuran 30 ml solution of 5.5 g (0.041 mol) of zinc chloride was dropwise added thereto over a period of 2 hours at −60° C., followed by stirring for 1 hour at room temperature. After 0.72 g (0.62 mmol) of tetrakis(triphenylphosphine)palladium was added thereto, a tetrahydrofuran 10 ml solution of 4.7 g (0.041 mol) of (R)-2-phenylpropionyl chloride was dropwise added thereto over a period of 1 hour at room temperature, followed by stirring at room temperature overnight. 43 ml of 1M hydrochloric acid was dropwise added to the reaction solution at room temperature, followed by stirring at the same temperature for 1 hour. After extraction with toluene from the solution, washing with water, drying, distillation of the solvent and recrystallization were carried out to obtain 4.1 g of (R)-1-[2,6-difluoro-4-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]phenyl]-2-phenyl-1-propanone.

reactant | 1-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]-3,5-difluorobenzene | 0.031 mol, 10 g | C(CC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC(=CC(=C1)F)F | C21H30F2
reactant | n-butyllithium hexane | 0.041 mol, 1.6M | C(CCC)[Li].CCCCCC
reactant | (R)-2-phenylpropionyl chloride | 0.041 mol, 4.7 g | C1(=CC=CC=C1)[C@H](C(=O)Cl)C | C9H9ClO
reactant | hydrochloric acid | 1M, 43 ml | Cl | ClH
catalyst | zinc chloride | 0.041 mol, 5.5 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.62 mmol, 0.72 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (R)-1-[2,6-difluoro-4-[trans-4-(trans-4-propylcyclohexyl)cyclohexyl]phenyl]-2-phenyl-1-propanone | 4.1 g | FC1=C(C(=CC(=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC)F)C([C@H](C)C1=CC=CC=C1)=O | C30H38F2O
